US07223788B2
N-(4-Aminophenyl)-4-cyclohexyl-N-methylbenzamide
4-Cyclohexylcarboxylic acid (5.0 g) and 4-nitrophenylisocyanate (4.0 g) were stirred in toluene (150 ml) for 3 hours and then left to stand overnight. The precipitate was filtered off with suction and washed with diethyl ether. The resulting amide was ethylated by method F and hydrogenated by method B. This resulted in the product with the molecular weight of 308.43 (C20H24N2O); MS (ESI): 309 (M+H+).

reactant | 4-Cyclohexylcarboxylic acid | 5.0 g | C1CCC(CC1)C(=O)O | C7H12O2
reactant | 4-nitrophenylisocyanate | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Aminophenyl)-4-cyclohexyl-N-methylbenzamide | NC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C1CCCCC1)=O)C | C20H24N2O
